US03978121
A solution of 5-(3-aminopropyl)-5H-dibenzo[a,d]cycloheptene (0.75 g., 0.003 mole) in 5 ml. of dry pyridine is treated with 0.7 ml. of butyric anhydride and then heated to refluxing for 30 minutes. The cooled solution is poured into 50 ml. of water and the mixture allowed to stand at room temperature overnight. The oil is extracted into benzene and the benzene extract washed with water, 3N hydrochloric acid, and water. Distillation of the benzene under reduced pressure gave an oily residue which solidified on standing. Trituration with petroleum ether afforded 5-(3-butyramidopropyl)-5H-dibenzo[a,d]cycloheptene as a white crystalline solid, m.p. 76°-80°C., in a yield of 0.80 g. (83%).

reactant | 5-(3-aminopropyl)-5H-dibenzo[a,d]cycloheptene | 0.003 mole, 0.75 g | NCCCC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C18H19N
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | butyric anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | water | O | H2O
product | 5-(3-butyramidopropyl)-5H-dibenzo[a,d]cycloheptene | C(CCC)(=O)NCCCC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C22H25NO
